US07435837B2
Treatment of (±)-(7-bromo-5-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.00 g, 4.98 mmol) with 2-methylphenyl boronic acid (1.017 g, 7.48 mmol), dichlorobis(tri-o-tolylphosphine)palladium(II) (0.196 g, 0.249 mmol), and potassium carbonate (1.72 g, 12.46 mmol) generally according to the procedure described for Intermediate 37 provided 1.58 g (77%) of (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a colorless oil. Rf=0.47 (silica, ethyl acetate:hexanes 3:17); Anal. calcd. for C22H19FO4S.0.2 C4H8O2: C, 66.46; H, 5.30. Found: C, 66.25; H, 4.98.

reactant | (±)-(7-bromo-5-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 4.98 mmol, 2.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2Br)F | C16H14BrFO4S
reactant | 2-methylphenyl boronic acid | 7.48 mmol, 1.017 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 12.46 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)palladium(II) | 0.249 mmol, 0.196 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.58 g, 77% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)C)F | C23H21FO4S
